US07244730B2
(Step 1) 1-[3-(tert-Butyl)-4-(methoxymethoxy)-5-nitrophenyl]-1-ethanone
Diisopropylethylamine (65 ml, 373 mmol) was added to a solution of 1-[3-(tert-butyl)-4-hydroxy-5-nitrophenyl]-1-ethanone (58.6 g, 247 mmol) in tetrahydrofuran (350 ml) under a nitrogen atmosphere while cooling on ice, and then chloromethyl methyl ether (24.5 ml, 322 mmol) was added dropwise. After stirring at the same temperature for 30 minutes, ice water (250 ml) was added and extraction was performed twice with ethyl acetate. The organic layer was washed with 1 N hydrochloric acid water, water, saturated aqueous sodium hydrogencarbonate and brine in that order. The organic layer was dried over anhydrous magnesium sulfate and then the solvent was distilled off under reduced pressure to yield the title compound (69.4 g, 99.9% yield) as a light brown oil. This was used without purification for the following reaction.

reactant | Diisopropylethylamine | 373 mmol, 65 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-[3-(tert-butyl)-4-hydroxy-5-nitrophenyl]-1-ethanone | 247 mmol, 58.6 g | C(C)(C)(C)C=1C=C(C=C(C1O)[N+](=O)[O-])C(C)=O | C12H15NO4
reactant | chloromethyl methyl ether | 322 mmol, 24.5 ml | COCCl | C2H5ClO
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 1-[3-(tert-Butyl)-4-(methoxymethoxy)-5-nitrophenyl]-1-ethanone | 69.4 g, 99.9% yield | C(C)(C)(C)C=1C=C(C=C(C1OCOC)[N+](=O)[O-])C(C)=O | C14H19NO5
